US08859541B2
C5a) tert-butyl-N-[5-(benzenesulfonamido)-6-(2-phenylethynyl)pyridin-2-yl]-carbamate
Benzenesulfonyl chloride (20 μl, 0.4 mmol) diluted with 400 μl DCM is added to a mixture of tert-butyl-N-[5-amino-6-(2-phenylethynyl)pyridin-2-yl]carbamate B5a (40 mg, 0.13 mmol), pyridine (32 μl, 0.4 mmol) and 400 μl DCM at RT and stirred for 1 h. The mixture is concentrated in vacuo and the product purified by RP HPLC. Yield: 37 mg (64%). HPLC-MS: M+H=450; tR=2.16 min (*Method—2).

reactant | Benzenesulfonyl chloride | 0.4 mmol, 20 μl | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | tert-butyl-N-[5-amino-6-(2-phenylethynyl)pyridin-2-yl]carbamate | C(C)(C)(C)OC(NC1=NC(=C(C=C1)N)C#CC1=CC=CC=C1)=O | C18H19N3O2
reactant | pyridine | 0.4 mmol, 32 μl | N1=CC=CC=C1 | C5H5N
solvent | DCM | 400 μl | C(Cl)Cl | CH2Cl2
solvent | DCM | 400 μl | C(Cl)Cl | CH2Cl2
product | tert-butyl-N-[5-(benzenesulfonamido)-6-(2-phenylethynyl)pyridin-2-yl]-carbamate | C(C)(C)(C)OC(NC1=NC(=C(C=C1)NS(=O)(=O)C1=CC=CC=C1)C#CC1=CC=CC=C1)=O | C24H23N3O4S
